US04045439
A solution of p-toluenesulphonyl chloride (7.0 g.) in ether (30 ml.) was added to a stirred solution of 6-amino-4-hydroxycinnolin-3-yl carboxylic acid (1.025 g.) in N-sodium hydroxide solution (15 ml.). The heterogeneous mixture was stirred vigorously for 16 hours. The aqueous phase was separated, washed with ether (2 × 25 ml.), and acidified to pH 2 with 5N-hydrochloric acid. The solid which separated was filtered off, washed with water and dried as much as possible on the filter. The product was purified by chromatography on a silica column (30 g., Kieselgel 60), eluted with a mixture of ethanol (15 parts by volume), chloroform (85 parts by volume) and formic acid (1 parts by volume), to give 4-hydroxy-6-(p-toluenesulphonylamino)cinnolin-3-yl carboxylic acid, m.p. 272°-273° C. EXAMPLE 16

reactant | p-toluenesulphonyl chloride | 7.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6-amino-4-hydroxycinnolin-3-yl carboxylic acid | 1.025 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)O)O | C9H7N3O3
solvent | ether | 30 ml | CCOCC | C4H10O
product | 4-hydroxy-6-(p-toluenesulphonylamino)cinnolin-3-yl carboxylic acid | OC1=C(N=NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C16H13N3O5S
